US04594409
N-t-Butoxycarbonyl-prolyl-phenylalanyl-glycine pentachlorophenyl ester in an amount of 36.4 g was dissolved in 410 ml of 2.2 N HCl-ethyl acetate. A precipitate was produced soon. After the reaction at room temperature for 1.5 hours, the precipitate was filtered, washed with ether and recrystallized from 1.2 l of methanol to give crystals of prolyl-phenylalanyl-glycine pentachlorophenyl ester.hydrochloride in yield of 21.5 g (65.2%) having a melting point of 182°-184° C. and Rf=0.78 (TLC, chloroform: methanol: acetic acid=85:5:3 by volume).

reactant | N-t-Butoxycarbonyl-prolyl-phenylalanyl-glycine pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(CNC([C@@H](NC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)CC1=CC=CC=C1)=O)=O)Cl)Cl)Cl)Cl | C27H28Cl5N3O6
solvent | HCl ethyl acetate | 2.2 N, 410 ml | Cl.C(C)(=O)OCC
product | prolyl-phenylalanyl-glycine pentachlorophenyl ester.hydrochloride | Cl.ClC1=C(C(=C(C(=C1OC(CNC([C@@H](NC([C@H]1NCCC1)=O)CC1=CC=CC=C1)=O)=O)Cl)Cl)Cl)Cl | InChI=1S/C22H20Cl5N3O4.ClH/c23-15-16(24)18(26)20(19(27)17(15)25)34-14(31)10-29-21(32)13(9-11-5-2-1-3-6-11)30-22(33)12-7-4-8-28-12;/h1-3,5-6,12-13,28H,4,7-10H2,(H,29,32)(H,30,33);1H/t12-,13-;/m0./s1
